data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_531092_2,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2](/[C:6]([C:5]([H:20])([H:21])[H:22])=[C:8](/[N:7]([H:11])[H:12])[H:13])([H:10])[O:9]1>>[C:1]([C:2](=[O:9])[H:10])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])/[C:6]([C:5]([H:20])([H:21])[H:22])=[C:8](/[N:7]([H:11])[H:12])[H:13],47.890800000006095
MR_666018_1,[C:1]([O:4][H:9])([O:5][H:10])([O:6][H:8])/[N:7]=[C:3](\[C:2]([H:12])([H:13])[H:14])[H:11]>>[C:1]([O:4][H:9])([O:6][H:8])=[N:7][C:3]([C:2]([H:12])([H:13])[H:14])([O:5][H:10])[H:11],52.66356500001223
MR_36936_1,[C:1]([N:2]([N:3]([H:8])[H:9])/[C:4](=[N:6]\[H:10])[H:13])([C:5](=[O:7])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:2]([N:3]([H:8])[H:9])[C:5]1([O:7]/[C:4](=[N:6]\[H:10])[H:13])[H:14],69.95181749998707
MR_396360_1,[C:1](/[N:7]=[C:3](/[N:2](/[C:4]([C:6](=[O:9])[H:14])=[N:8]\[H:13])[H:10])[N:5]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([N:7]([C@@:3]1([N:5]([H:11])[H:12])[N:2]([H:10])/[C:4]1=[N:8]\[H:13])[C:6](=[O:9])[H:14])([H:15])([H:16])[H:17],70.79266750000428
MR_371234_1,[C:1]([N:3]([N:2]([N:7]=[C:4]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:8])[H:9])([H:14])([H:15])[H:16]>>[C:1]([N:3]([C:4]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])/[N:7]=[N:2]/[H:8])[H:9])([H:14])([H:15])[H:16],53.61924750002487
MR_267686_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[N:5]([H:9])[H:10])([C:4](=[C:6]([H:16])[H:17])[O:7][H:8])([H:11])[H:12]>>[C:1](=[C:4]([C:6]([N:3]([C:2]([H:13])([H:14])[H:15])[N:5]([H:9])[H:10])([H:16])[H:17])[O:7][H:8])([H:11])[H:12],60.43829000000102
MR_50073_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([O:5][O:6][H:9])[O:7][H:10]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:7][H:10])[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][O:6][H:9])[O:8]1,48.87722999994111
MR_452664_0,[C:1](/[C:4]([C:3](=[C:7]([H:18])[H:19])[O:8][H:9])=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([O:8][H:9])[C:7]([H:18])([H:19])[C:5]1([C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],33.68733749998313
MR_21784_0,[C:1]1([O:5][H:6])([H:7])[C:2]([C:4]([H:11])([H:12])[H:13])([H:8])[C:3]1([H:9])[H:10]>>[C:1]([C:2]([C:4]([H:11])([H:12])[H:13])([H:7])[H:8])(=[C:3]([H:9])[H:10])[O:5][H:6],71.83494499999448
MR_626476_0,[C:1](/[N:6]=[N:4]/[N:5]=[C:3](/[N:2]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]1[C:3]([N:2]([H:7])[H:8])([H:9])[N:5]=[N:4]1)([H:10])([H:11])[H:12],29.423475000011905
MR_306557_1,[C:1]1([N:4]([H:9])[H:10])([H:8])[N:3]([C:2]([H:13])([H:14])[H:15])[O:7][C:5]([H:11])=[C:6]1[H:12]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[N:3]([C:2]([H:13])([H:14])[H:15])[C:6]1([C:5](=[O:7])[H:11])[H:12],44.44268750004412
MR_188418_1,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:8])[H:9])([C:4](=[O:6])[H:10])[O:5][H:7]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[N:3]\[H:9])[C:4]([O:5][H:7])([O:6][H:8])[H:10],25.464577499984102
MR_602561_1,[C:1]([C:2]([O:4][N:6]=[O:7])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][H:8])[H:9]>>[C:1]([C:3]([H:12])([H:13])[H:14])([O:4][C:2]([N:6]=[O:7])([H:10])[H:11])([O:5][H:8])[H:9],59.64575749996882
MR_32109_0,[C:1]([N:3]([C:4]([O:6][H:9])=[O:7])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:5](/[C:2]([H:13])([H:14])[H:15])[O:8][C:4]([O:6][H:9])=[O:7])([H:10])([H:11])[H:12],44.7074925000176
MR_166125_2,[N:1]([N:2]([C:3]([N:5]([H:11])[H:13])=[O:7])[H:10])([C:4]([N:6]([H:12])[H:14])=[O:8])[H:9]>>[N:1]([N:2]([C:4]([N:6]([H:12])[H:14])=[O:8])[H:10])([C:3]([N:5]([H:11])[H:13])=[O:7])[H:9],57.24996249998952
MR_43677_0,[C:1]([O:3][C:2]([O:4][H:6])=[O:5])([H:7])([H:8])[H:9]>>[C:1]([O:5][C:2](=[O:3])[O:4][H:6])([H:7])([H:8])[H:9],56.85840249997938
MR_71086_1,[C:1]([C:2]([H:9])([H:10])[H:14])([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:7])[O:6][H:8]>>[C:1]([C:2]([H:9])([H:10])[H:14])([O:4][C:3]([H:11])([H:12])[H:13])([O:5][H:7])[O:6][H:8],60.14650249995299
MR_668522_1,[C:1](=[C:4]([C:7]1([H:14])[N:3]([H:12])[C:5]1([C:2]([H:18])([H:19])[H:20])[C:6]([O:9][H:11])([H:13])[H:17])[O:8][H:10])([H:15])[H:16]>>[C:1](/[C:4](=[C:7](\[N:3](/[C:5]([C:2]([H:18])([H:19])[H:20])=[C:6](\[O:9][H:11])[H:13])[H:12])[H:14])[O:8][H:10])([H:15])([H:16])[H:17],39.73267249998656
MR_104731_0,[C:1](/[C:4]([N:6]=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[H:17])=[N:7]\[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:4]1=[N:6][C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:12])([H:13])[H:17])[N:7]1[H:8])([H:9])([H:10])[H:11],35.42049249995898
MR_295_0,[C:1](/[C:3](=[C:4](/[C:2]([H:11])([H:12])[H:13])[H:7])[O:5][H:6])([H:8])([H:9])[H:10]>>[C:1]([C:3]([C:4]([C:2]([H:11])([H:12])[H:13])([H:6])[H:7])=[O:5])([H:8])([H:9])[H:10],59.79133749999363
MR_133515_0,[C:1](/[C:3](=[C:2](\[N:4]([H:8])[H:9])[C:6](=[O:7])[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:2]([N:4]([H:8])[H:9])=[C:6]([H:12])[O:7]1)([H:13])([H:14])[H:15],42.35875999999081
